US07863314B2
B. 5-Amino-1-(5-cyclopropylcarbamoyl-2-methyl-phenyl)-3-methyl-1H-pyrazole-4-carboxylic acid ethyl ester
To a solution of 5-amino-1-(5-carboxy-2-methyl-phenyl)-3-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (150 mg, 0.49 mmol, 1.0 eq), EDCI (190 mg, 0.98 mmol, 2.0 eq), HOBt (134 mg, 0.98 mmol, 2.0 eq), and diisopropylethyl amine (362 μL, 0.98 mmol, 2.0 eq) in DMF (5 mL) which had been stirred at RT for 15 min was added cyclopropylamine (68 μL, 0.98 mmol, 2.0 eq). After stirring overnight, the solution was diluted with EtOAc and water and the organic layer was washed with water (2×) and brine, dried (Na2SO4) and concentrated. The crude residue was purified by flash chromatography on silica gel (gradient elution, 3/2 EtOAc/hexanes then 100% EtOAc) to provide the product as a white solid (29 mg, 17%). HPLC (4 minute 10-95 gradient) tR 1.97 min; MS m/z 343 [M+H]+; 1H NMR (CD3OD), δ 7.87 (d, J=7.1 Hz, 1 H), 7.76 (s, 1 H), 7.50 (d, J=8.0 Hz, 1 H), 4.29 (q, J=7.0 Hz, 2 H), 2.84 (m, 1 H), 2.34 (s, 3 H), 2.18 (s, 3 H), 1.36 (t, J=7.0 Hz, 3 H), 0.79 (d, J=5.5 Hz, 2 H), 0.62 (s, 2 H) ppm; 13C NMR (CD3OD), δ 168.1, 164.4, 151.3, 149.8, 140.1, 135.2, 132.6, 130.7, 127.9, 126.3, 92.0, 58.6, 22.1, 15.7, 12.9, 12.6, 4.6 ppm.

reactant | 5-amino-1-(5-carboxy-2-methyl-phenyl)-3-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 0.49 mmol, 150 mg, 1.0 eq | C(C)OC(=O)C=1C(=NN(C1N)C1=C(C=CC(=C1)C(=O)O)C)C | C15H17N3O4
reactant | EDCI | 0.98 mmol, 190 mg, 2.0 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.98 mmol, 134 mg, 2.0 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethyl amine | 0.98 mmol, 362 μL, 2.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropylamine | 0.98 mmol, 68 μL, 2.0 eq | C1(CC1)N | C3H7N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-Amino-1-(5-cyclopropylcarbamoyl-2-methyl-phenyl)-3-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 29 mg, 17% | C(C)OC(=O)C=1C(=NN(C1N)C1=C(C=CC(=C1)C(NC1CC1)=O)C)C | C18H22N4O3
